US07915250B2
To a solution of 1,1-dimethylethyl [1-(diphenylmethyl)-3-hydroxyazetidin-3-yl]acetate (333 mg, 0.94 mmol) in THF (3 mL) at 0° C. was added lithium aluminum hydride (940 μL of a 1.0 M solution in THF, 0.94 mmol). The mixture was stirred for 3 h 20 min while warming to rt. Water (36 μL) was added carefully to the solution, followed by 15% sodium hydroxide (36 μL) and more water (108 μL). The resulting precipitate was removed by filtration through celite, and the filtrate was concentrated to dryness yielding 1-(diphenylmethyl)-3-(2-hydroxyethyl)azetidin-3-ol (228 mg, 0.80 mmol, 85% yield) as a colorless syrup. 1H NMR (400 MHz, CDCl3): δ 7.38 (m, 4H), 7.26 (m, 4H), 7.19 (m, 2H), 4.37 (s, 1H), 3.92 (m, 2H), 3.32 (m, 2H), 2.96 (m, 2H), 2.07 (m, 2H).

reactant | 1,1-dimethylethyl [1-(diphenylmethyl)-3-hydroxyazetidin-3-yl]acetate | 0.94 mmol, 333 mg | C1(=CC=CC=C1)C(N1CC(C1)(O)CC(=O)OC(C)(C)C)C1=CC=CC=C1 | C22H27NO3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 36 μL | O | H2O
reactant | sodium hydroxide | 36 μL | [OH-].[Na+]
reactant | water | 108 μL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(diphenylmethyl)-3-(2-hydroxyethyl)azetidin-3-ol | 0.80 mmol, 228 mg, 85% yield | C1(=CC=CC=C1)C(N1CC(C1)(O)CCO)C1=CC=CC=C1 | C18H21NO2
